US07956216B2
39A: N-isoamyl-4-phenylbenzamide
Using Preparation Method 1, 4-phenylbenzoic acid was reacted with isoamylamine. The resulting reaction mixture was purified using SiO2 with CH2Cl2 100%. A white crystalline solid was obtained (29%). NMR 1H (ppm, CDCl3): 7.81 (d, J3=8.3 Hz, 2H), 7.65-7.58 (m, 4H), 7.47-7.34 (m, 3H), 6.06 (br. s., 1H), 3.53-3.36 (m, 2H), 1.74-1.65 (m, 1H), 1.52 (quart., J3=6.7 Hz, 2H), 0.96 (d, J3=6.6 Hz).

reactant | 4-phenylbenzoic acid | C1(=CC=CC=C1)C1=CC=C(C(=O)O)C=C1 | C13H10O2
reactant | isoamylamine | C(CC(C)C)N | C5H13N
product | N-isoamyl-4-phenylbenzamide | C(CC(C)C)NC(C1=CC=C(C=C1)C1=CC=CC=C1)=O | C18H21NO
